US08017611B2
Sodium hydride (354 mg, 60% dispersion in oil) was added portionwise to a solution of 4-bromo-3-methoxy-2H-pyrazole, hydrochloride salt (755 mg) in degassed DMF (12 ml) under argon at room temperature. The resulting suspension was stirred at room temperature for 10 minutes. tert-butyl 4-methylsulphonyloxypiperidine-1-carboxylate (1.087 g) was added to the stirred suspension. The resulting mixture was stirred at 90° C. for 20 hours. The reaction mixture was allowed to cool to room temperature, quenched with water, diluted with ethyl acetate then water and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over magnesium sulfate and concentrated. The residue was purified by flash chromatography on silica gel eluting with 0 to 20% ethyl acetate in petroleum ether. The solvent was evaporated to dryness to afford tert-butyl 4-(4-bromo-3-methoxy-pyrazol-1-yl)piperidine-1-carboxylate (670 mg). NMR Spectrum: (CDCl3) 1.47 (s, 9H), 1.78 (dd, 1H), 1.83 (dd, 1H), 2.03-2.10 (m, 2H), 2.78-2.93 (m, 2H), 3.93 (s, 3H), 3.99-4.07 (m, 1H), 4.13-4.31 (m, 2H), 7.24 (s, 1H)

reactant | Sodium hydride | 354 mg | [H-].[Na+]
reactant | 4-bromo-3-methoxy-2H-pyrazole, hydrochloride salt | 755 mg | Cl.BrC1=C(NN=C1)OC
reactant | tert-butyl 4-methylsulphonyloxypiperidine-1-carboxylate | 1.087 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-bromo-3-methoxy-pyrazol-1-yl)piperidine-1-carboxylate | 670 mg | BrC=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C14H22BrN3O3
